US09428509B2
4-((4-(Cyclopentyloxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide
4-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide 1 equiv), 4-amino-3-methoxy-N-methylbenzamide (1.2 equiv), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (binap) (0.2 equiv), cesium carbonate (5 equiv) and palladium(II) acetate (0.1 equiv) were combined in a sealed tube along with 1,4-dioxane (0.14 M). Nitrogen gas was bubbled through the reaction mixture for 2 min, the reaction vessel was sealed and heated in an oil bath at 110° C. for 4 h. The solvent was removed under reduced pressure and the crude material was stirred in DCM. The solids were filtered off and the filtrate was loaded directly onto a silica gel column. The product was purified by silica gel chromatography (Biotage, 20-100% ethyl acetate in hexane over 400 mL, 100% ethyl acetate for 200 mL, 0-10% MeOH in ethyl acetate over 600 mL then held at 10% MeOH in ethyl acetate for 500 mL). The fractions containing the desired product were combined and evaporated under reduced pressure to give the title compound (67.1% yield) as a tan solid. MS (ESI) m/z 645.6 [M+1]+.

reactant | 4-(2-Chloro-4-(cyclopentyloxy)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-N-methylbenzamide | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2C2=CC=C(C(=O)NC)C=C2)COCC[Si](C)(C)C)OC2CCCC2 | C25H33ClN4O3Si
reactant | 4-amino-3-methoxy-N-methylbenzamide | 1.2 equiv | NC1=C(C=C(C(=O)NC)C=C1)OC | C9H12N2O2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.2 equiv | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 5 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | palladium(II) acetate | 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | 1,4-dioxane | 0.14 M | O1CCOCC1 | C4H8O2
product | 4-((4-(Cyclopentyloxy)-5-(4-(methylcarbamoyl)phenyl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-2-yl)amino)-3-methoxy-N-methylbenzamide | 67.1% yield | C1(CCCC1)OC=1C2=C(N=C(N1)NC1=C(C=C(C(=O)NC)C=C1)OC)N(C=C2C2=CC=C(C=C2)C(NC)=O)COCC[Si](C)(C)C | C34H44N6O5Si
